US05958942
4-[4-(Amino)phenylmethyl]-4,5-dihydro-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 1.47 g (12.0 mmol) of 4-aminobenzylamine and 1.68 g (13.0 mmol) of N,N-diisopropylethylamine was added a solution of 3.50 g (10.0 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine in 10 ml of acetonitrile. The mixture was stirred for 7 hours at room temperature. The resulting precipitate was collected by filtration, washed with acetonitrile and dried to afford 2.586 g of the desired compound (86.7%, a yellow crystals).

reactant | 4-aminobenzylamine | 12.0 mmol, 1.47 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | N,N-diisopropylethylamine | 13.0 mmol, 1.68 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 10.0 mmol, 3.50 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-[4-(Amino)phenylmethyl]-4,5-dihydro-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 2.586 g | NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C16H12N4O2
